US08420683B2
Preparation of tris-acetyl 5-hydroxymethylimidazolidine-2,4-dione ([1], R1=—OC(O)CH3, R2═R3=—C(O)CH3)
L-Serine hydantoin (41.4 g, 318 mmol) was suspended in dry MeCN (330 mL) and the solution was cooled to 10° C. Pyridine (88.3 g, 1.11 mol) was added followed by drop wise addition during approx. 1 h of acetyl chloride (87.4 g, 1.11 mol), such that the temperature was maintained at 10° C. After the addition, the reaction was allowed to warm up to 20° C. while a precipitate formed that gradually dissolved. After approx. 16 h, the reaction was complete (as determined by 1H NMR in CDCl3) and was concentrated on the rotavapor at 40° C. to a weight of approx. 240 g during which some solids formed. MTBE (500 mL) was added and more solid precipitated. After stirring for 10 min, the precipitate was collected on a funnel via suction. The cake was washed with additional MTBE (100 mL) and then discarded. The title product resided in the mother liquor. This was concentrated on a rotavapor at 40° C. to thick oil. Weight 73.0 g, ca. 95% purity, approx. 85% yield. 1H NMR: (CDCl3, 300 MHz): δ 4.83 (dd, 1H), 4.73 (t, 1H), 4.44 (dd, 1H), 2.61 (s, 3H), 2.60 (s, 3H), 2.03 (s, 3H).

reactant | L-Serine hydantoin | 318 mmol, 41.4 g | N1C(=O)NC(=O)C1.N[C@@H](CO)C(=O)O
reactant | Pyridine | 1.11 mol, 88.3 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.11 mol, 87.4 g | C(C)(=O)Cl | C2H3ClO
reactant | MTBE | 500 mL | CC(C)(C)OC | C5H12O
solvent | MeCN | 330 mL | CC#N | C2H3N
product | tris-acetyl 5-hydroxymethylimidazolidine-2,4-dione | approx. 85% yield | C(C)(=O)C1(C(N(C(N1C(C)=O)=O)C(C)=O)=O)CO | C10H12N2O6
